US04107435
2-Deoxy-D-ribose (100 g; 0.746 mole) and benzylamine (96 g; 0.897 mole) were dissolved in methanol (400 ml) and water (40 ml) and hydrogenated at 50° C and 50 p.s.i. in the presence of platinum oxide catalyst (4.0 g) until hydrogen uptake was complete. The catalyst was filtered off and the filtrate was cooled in an ice bath. The resulting crystalline precipitate was collected, washed with cold methanol, and dried to give 5-(benzylamino)-1,2(S),3(S)-trihydroxypentane (100 g; 59.5% yield). A sample was recrystallized from ethyl acetate, m.p. 117°-118.5° C, δ (DMSO-D6) 7.3 (5H, s); 3.9 (3H, m, exchangeable with D2O); 3.7 (2H, s); 3.4 (4H, m); 2.6 (2H, m); 1.6 (2H, m). νmax. 3370, 3310, 3290 cm-1. (Found: C, 64.3; H, 8.5; N, 6.1. C12H19NO3 requires: C, 64.0; H, 8.5; N, 6.2%). (A).

reactant | 2-Deoxy-D-ribose | 0.746 mole, 100 g | O=CC[C@H](O)[C@H](O)CO | C5H10O4
reactant | benzylamine | 0.897 mole, 96 g | C(C1=CC=CC=C1)N | C7H9N
reactant | water | 40 ml | O | H2O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 400 ml | CO | CH4O
catalyst | platinum oxide | 4.0 g | [Pt]=O
product | 5-(benzylamino)-1,2(S),3(S)-trihydroxypentane | 100 g, 59.5% yield | C(C1=CC=CC=C1)NCC[C@@H]([C@H](CO)O)O | C12H19NO3
